US09079911B2
Intermediate 40: 6-Chloro-2-(hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)-benzothiazole
The title compound was prepared in a manner analogous to Intermediate 23 utilizing 2,6-dichloro-benzothiazole and hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester as starting materials.

reactant | 2,6-dichloro-benzothiazole | ClC=1SC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NS
reactant | hexahydro-pyrrolo[3,4-c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2CNCC2C1 | C11H20N2O2
product | 6-Chloro-2-(hexahydro-pyrrolo[3,4-c]pyrrol-2-yl)-benzothiazole | ClC1=CC2=C(N=C(S2)N2CC3CNCC3C2)C=C1 | C13H14ClN3S
